US08039469B2
Step 2: Preparation of 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-methylurea
The title compound was prepared by following the procedure of example 473 step 2 using 4,4′-(6-chloro-1,3,5-triazine-2,4-diyl)dimorpholine and 1-Methyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea. Yield 13 mg, 11% yield; HPLC: Rt=1.98 min; MS 400 [M+H].

reactant | 4,4′-(6-chloro-1,3,5-triazine-2,4-diyl)dimorpholine | ClC1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1 | C11H16ClN5O2
reactant | 1-Methyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | CNC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
product | 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-methylurea | 11% yield | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC | C19H25N7O3
